US06927214B1
6,7-Difluoro-3-methyl-1H-quinoxalin-2-one (2 g, 10.2 mmol) was dissolved in a mixture of glacial acetic acid (40 ml) and 98% sulfuric acid (4 ml). Benzaldehyde (1.08 g, 10.2 mmol) was added and the resulting mixture was stirred at reflux temperature for 3.5 hours. The mixture was allowed to cool to 85° C. and then poured onto ice (400 ml). The solid was filtered, washed with water and ethyl acetate and dried in vacuo at 30° C. overnight to afford 2.5 g (88%) of 6,7-difluoro-3-styryl-1H-quinoxalin-2-one.

reactant | 6,7-Difluoro-3-methyl-1H-quinoxalin-2-one | 10.2 mmol, 2 g | FC=1C=C2N=C(C(NC2=CC1F)=O)C | C9H6F2N2O
reactant | Benzaldehyde | 10.2 mmol, 1.08 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
product | 6,7-difluoro-3-styryl-1H-quinoxalin-2-one | 2.5 g, 88% | FC=1C=C2N=C(C(NC2=CC1F)=O)C=CC1=CC=CC=C1 | C16H10F2N2O
